US07622501B2
Step 1: (2,2-dimethyl-1,3-dioxolan-4-yl)methyl acetate
To a solution of 28.1 g (212 mmol) of 2,2-dimethyl-1,3-dioxolane-4-methanol and 44 g (361 mmol) of DMAP in 1 L of dichloromethane was added 36 mL (382 mmol) of acetic anhydride dropwise. The resulting mixture was stirred at rt for 0.5 h. The reaction mixture was then quenched with NH4Cl (aq), the organic layer separated and washed with saturated NaHCO3. The organic layer was then dried (Na2SO4), filtered and concentrated in vacuo to give an oil which was used without further purification. 1H NMR (500 MHz, acetone-d6): δ 4.30-4.25 (m, 1H), 4.09-4.01 (m, 1H), 3.72 (dd, 1H), 2.01 (s, 3H), 1.33 (s, 3H), 1.27 (s, 3H).

reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 212 mmol, 28.1 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | acetic anhydride | 382 mmol, 36 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 361 mmol, 44 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | (2,2-dimethyl-1,3-dioxolan-4-yl)methyl acetate | C(C)(=O)OCC1OC(OC1)(C)C | C8H14O4
